US05081287
To a stirred solution of 51.2 grams (0.320 mole) of 1,9-nonanediol in 500 ml of tetrahydrofuran was added one crystal of p-dimethylaminopyridine, and then 8.9 grams (0.088 mole) of triethylamine was added. To this mixture was added dropwise a solution of 11.2 grams (0.08 mole) of benzoyl chloride in 40 ml of methylene chloride. Upon completion of addition, the reaction mixture was stirred at ambient temperature for 18 hours. The reaction mixture was concentrated under reduced pressure to a residue. The residue was dissolved in 200 ml of methylene chloride and was washed with five 75 ml portions of water. The organic layer was dried with magnesium sulfate and filtered. The filtrate was concentrated under reduced pressure to a residue. Volatile materials were removed by distillation leaving 11.5 grams of 9-hydroxynonyl benzoate. The nmr spectrum was consistent with the proposed structure.

reactant | 1,9-nonanediol | 0.320 mole, 51.2 grams | C(CCCCCCCCO)O | C9H20O2
reactant | triethylamine | 0.088 mole, 8.9 grams | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 0.08 mole, 11.2 grams | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
catalyst | p-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | 9-hydroxynonyl benzoate | 11.5 grams | C(C1=CC=CC=C1)(=O)OCCCCCCCCCO | C16H24O3
